datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].OCc1ccc([O:21][H:20])c(CO)c1>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].OCc1ccc([O-:21])c(CO)c1 10=20;20,21=21",
"CC(C)n1c[n:10]c2ccccc21.O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2o1)[O:21][H:20]>>CC(C)n1c[n+:10]([H:20])c2ccccc21.O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2o1)[O-:21] 10=20;20,21=21",
"C1CC[NH+](CCC[N:10]2CCCCC2)CC1.CCC([N+](=O)[O-])=[N+]([O-])[O:21][H:20]>>C1CC[NH+](CCC[N+:10]2([H:20])CCCCC2)CC1.CCC([N+](=O)[O-])=[N+]([O-])[O-:21] 10=20;20,21=21",
"Cc1cccc(OCC(=O)[O:21][H:20])c1.c1ccc2c(c1)N1CC[N:10]2CC1>>Cc1cccc(OCC(=O)[O-:21])c1.c1ccc2c(c1)N1CC[N+:10]2([H:20])CC1 10=20;20,21=21",
"FC(F)(F)c1cccc([N-:10]C=S)c1.NC(CC(=O)[NH:21][H:20])C(=O)O>>FC(F)(F)c1cccc([N:10](C=S)[H:20])c1.NC(CC(=O)[NH-:21])C(=O)O 10=20;20,21=21",
"C=C=CC(=O)[O-:10].C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:21][H:20])[C@@H](C)[C@H]1N>>C=C=CC(=O)[O:10][H:20].C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:21])[C@@H](C)[C@H]1N 10=20;20,21=21",
"Cc1c(Cn2cc[n+:21]([H:20])c2)sc2cc(C(=O)[O-])ccc12.[NH3+]c1cccc([NH2:10])c1O>>Cc1c(Cn2cc[n:21]c2)sc2cc(C(=O)[O-])ccc12.[NH3+]c1cccc([NH2+:10][H:20])c1O 10=20;20,21=21",
"CC(c1ccccc1)[OH+:21][H:20].N#Cc1ccccc1[NH2:10]>>CC(c1ccccc1)[OH:21].N#Cc1ccccc1[NH2+:10][H:20] 10=20;20,21=21",
"C1CCC(C[NH2:10])CC1.Cc1ccn(-c2cccc[n+:21]2[H:20])n1>>C1CCC(C[NH2+:10][H:20])CC1.Cc1ccn(-c2cccc[n:21]2)n1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCCOCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCOCC[NH2+:10][H:20] 10=20;20,21=21",
"C=CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[N:10](C)CCOCCN(C)C.C[NH2+][C@H]1C(C)[C@@H]1[NH+:21](C)[H:20]>>CC[N+:10](C)(CCOCCN(C)C)[H:20].C[NH2+][C@H]1C(C)[C@@H]1[NH:21]C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1cc(Cl)ccc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1cc(Cl)ccc1C[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[O-]c1cccc2c1-c1cccc([O-:10])c1-2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[O-]c1cccc2c1-c1cccc([O:10][H:20])c1-2 10=20;20,21=21",
"CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH:10][C@H]4CC1)[C@@H]32.COc1ccc([NH+:21](C)[H:20])cc1>>CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH+:10]([H:20])[C@H]4CC1)[C@@H]32.COc1ccc([NH:21]C)cc1 10=20;20,21=21",
"Cc1cc(C(C)C)c([O-:10])cc1C.Cc1ccc(C)c(C(=O)[O:21][H:20])c1>>Cc1cc(C(C)C)c([O:10][H:20])cc1C.Cc1ccc(C)c(C(=O)[O-:21])c1 10=20;20,21=21",
"CC[N:10](CC)CC(=N[O-])C(C)=NO.O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O:21][H:20]>>CC[N+:10](CC)(CC(=N[O-])C(C)=NO)[H:20].O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(Cc1ccccc1OC)[H:20].OCCC[C@@H]1CC[C@@H]2CCC[N:10]12>>CC[N:21](CC)Cc1ccccc1OC.OCCC[C@@H]1CC[C@@H]2CCC[N+:10]12[H:20] 10=20;20,21=21",
"C1CC1[NH2+:21][H:20].CC/C(C)=C\C(=O)[O-:10]>>C1CC1[NH2:21].CC/C(C)=C\C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)CSCC[NH2:10].O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n+:21]3[H:20])[C@@H](O)[C@H](O)[C@H]1O>>CC(C)CSCC[NH2+:10][H:20].O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n:21]3)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"C[C@@H]([C@H](O)c1ccc(O)cc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@@H]([C@H](O)c1ccc(O)cc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"C#CCCC(=O)[O:21][H:20].CCC(C(=O)[O-])[NH2:10]>>C#CCCC(=O)[O-:21].CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CCC[N:10](CCO)CC(O)CC.CCNCC#CC[NH+:21](CC)[H:20]>>CCC[N+:10](CCO)(CC(O)CC)[H:20].CCNCC#CC[NH:21]CC 10=20;20,21=21",
"C1CC[O+:21]([H:20])C1.CS(=O)Cc1cccc[n:10]1>>C1CC[O:21]C1.CS(=O)Cc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C1C[NH:10]CCN1.O=C(C[Se]c1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>C1C[NH+:10]([H:20])CCN1.O=C(C[Se]c1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"O=C(Cn1ncnn1)[O-:10].O=C([C@@H]1C[C@@H]1c1ccccc1)[O:21][H:20]>>O=C(Cn1ncnn1)[O:10][H:20].O=C([C@@H]1C[C@@H]1c1ccccc1)[O-:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc(/N=N/c2ccc([O-:10])cc2)ccn1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc(/N=N/c2ccc([O:10][H:20])cc2)ccn1 10=20;20,21=21",
"CCOC(=O)N1CC[N:10](C)CC1.Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1>>CCOC(=O)N1CC[N+:10](C)([H:20])CC1.Cc1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].c1c[nH+]c(Cc2nc(Cc3c[nH]c[n+:21]3[H:20])c[nH]2)[nH]1>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].c1c[nH+]c(Cc2nc(Cc3c[nH]c[n:21]3)c[nH]2)[nH]1 10=20;20,21=21",
"CC(C)S(=O)(=O)n1c(N)[n:10]c2ccc(C(=CC(N)=O)c3cccc(F)c3)cc21.O=Cc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>CC(C)S(=O)(=O)n1c(N)[n+:10]([H:20])c2ccc(C(=CC(N)=O)c3cccc(F)c3)cc21.O=Cc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
